US08071595B2
A solution of 4-(pyridin-4-yl)-3-(4-(quinolin-2-ylmethoxy)phenyl)furan-2(5H)-one (1.0 g, 0.002 mol) and MeNH2 in MeOH (25 mL) was refluxed for 1 h. The reaction mixture was concentrated in vacuo to afford (Z)-4-hydroxy-N-methyl-3-(pyridin-4-yl)-2-(4-(quinolin-2-ylmethoxy)-phenyl)but-2-enamide (920 mg, 86%) as a solid.

reactant | 4-(pyridin-4-yl)-3-(4-(quinolin-2-ylmethoxy)phenyl)furan-2(5H)-one | 0.002 mol, 1.0 g | N1=CC=C(C=C1)C1=C(C(OC1)=O)C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1 | C25H18N2O3
reactant | MeNH2 | CN | CH5N
solvent | MeOH | 25 mL | CO | CH4O
product | (Z)-4-hydroxy-N-methyl-3-(pyridin-4-yl)-2-(4-(quinolin-2-ylmethoxy)-phenyl)but-2-enamide | 920 mg, 86% | OC\C(=C(/C(=O)NC)\C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1)\C1=CC=NC=C1 | C26H23N3O3
